US04249015
Cupric chloride dihydrate (0.125 g; 0.733 m. moles) and 1,10-phenanthroline hydrate (0.375 g; 1.9 m. moles) were added to a solution of sodium (1.15 g; 50 m. moles) in ethanol (75 ml). A stream of dry oxygen was passed through the mixture, 1-(4-ethoxyphenyl)-2,2,2-trichloroethanol (11.72 g; 43.6 m. moles) added and the mixture stirred at 30°-35° C. for 11/2 hours. A solution of sodium (0.575 g; 25 m. moles) in ethanol (10 ml) was then added and the reaction was allowed to continue for a further 1 hour. The reaction mixture was diluted with water (250 ml), acidified with hydrochloric acid and extracted with ether (3×50 ml). The combined ether extracts were washed once with water and twice with dilute aqueous sodium carbonate, dried (MgSO4) and evaporated. The residue was distilled to give ethyl 4-ethoxybenzoate (5.3 g; yield 66%), b.p. 148°-150° C./12 mm.

reactant | sodium | 1.15 g | [Na] | Na
reactant | oxygen | O=O | O2
reactant | 1-(4-ethoxyphenyl)-2,2,2-trichloroethanol | 11.72 g | C(C)OC1=CC=C(C=C1)C(C(Cl)(Cl)Cl)O | C10H11Cl3O2
reactant | sodium | 0.575 g | [Na] | Na
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | 75 ml | C(C)O | C2H6O
reactant | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 250 ml | O | H2O
catalyst | 1,10-phenanthroline hydrate | 0.375 g | O.N1=CC=CC2=CC=C3C=CC=NC3=C12
product | ethyl 4-ethoxybenzoate | 5.3 g, yield 66% | C(C)OC1=CC=C(C(=O)OCC)C=C1 | C11H14O3
